US05250537
5-Fluoro-6,7,8,9,10,11-hexahydro-7,11-iminocyclooct[b]indole
This compound was prepared from 9-azabicyclo[3.3.1]nonan-3-one hydrochloride and 4-fluorophenylhydrazine by the Fischer indole synthesis as described in Example 1, Method A. The product was obtained as yellow crystals (74% yield), mp 200°-201° C. (from methylene chloride).

reactant | 9-azabicyclo[3.3.1]nonan-3-one hydrochloride | Cl.C12CC(CC(CCC1)N2)=O
reactant | 4-fluorophenylhydrazine | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-6,7,8,9,10,11-hexahydro-7,11-iminocyclooct[b]indole | 74% yield | FN1C2=C(C3=CC=CC=C13)C1CCCC(C2)N1 | C14H15FN2
